US06258811B1
Oxalyl chloride (0.26 ml) was added at −78° C. to dimethyl sulfoxide (0.42 ml) and dichloromethane (7 ml) and the resultant mixture was stirred at the same temperature for 3 min. Next, the 4,7-difluoro-2-hydroxybenzofuran (272 mg) was added to the mixture at the same temperature followed by stirring for 40 min. After adding triethylamine (1.2 ml) to the liquid reaction mixture, it was heated to room temperature and then stirred at room temperature for additional 30 min. Then water was added to the liquid reaction mixture followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solvent: 5% ethyl acetate/n-hexane) to give 4,7-difluorobenzofuran-2-carbaldehyde (169 mg) as a colorless solid.

reactant | Oxalyl chloride | 0.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.42 ml | CS(=O)C | C2H6OS
reactant | dichloromethane | 7 ml | ClCCl | CH2Cl2
reactant | 4,7-difluoro-2-hydroxybenzofuran | 272 mg | FC1=CC=C(C2=C1C=C(O2)O)F | C8H4F2O2
solvent | water | O | H2O
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | 4,7-difluorobenzofuran-2-carbaldehyde | 169 mg | FC1=CC=C(C2=C1C=C(O2)C=O)F | C9H4F2O2
